US07807840B2
Saturated hydrogen chloride in diethyl ether (20 mL) was added to a solution of (R)-1-(3-indolyl)-2-propylaminopentane (7.13 g) in diethyl ether under ice-cooling and stirring and then stirred at the same temperature for 10 minutes. The precipitated crystals were collected by filtration and washed three times with diethyl ether (10 mL). The resulting powder (7.70 g) was suspended in acetone (20 mL), and the suspension was stirred and refluxed for 10 minutes. The resulting yellow suspension was filtered, and the crystals were washed with acetone (5 mL three times) to give (R)-1-(3-indolyl)-2-propylaminopentane hydrochloride (4.43 g, 53% yield).

reactant | hydrogen chloride | Cl | ClH
reactant | (R)-1-(3-indolyl)-2-propylaminopentane | 7.13 g | N1C=C(C2=CC=CC=C12)C[C@@H](CCC)NCCC | C16H24N2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | (R)-1-(3-indolyl)-2-propylaminopentane hydrochloride | 4.43 g, 53% yield | Cl.N1C=C(C2=CC=CC=C12)C[C@@H](CCC)NCCC | InChI=1S/C16H24N2.ClH/c1-3-7-14(17-10-4-2)11-13-12-18-16-9-6-5-8-15(13)16;/h5-6,8-9,12,14,17-18H,3-4,7,10-11H2,1-2H3;1H/t14-;/m1./s1
